US07696226B2
ethyl 2-(2-pyridinyl)-1,3-thiazole-4-carboxylate
2-Picolinamide (3.1 g, 25.4 mmol) was dissolved in toluene (25 mL) and treated with Lawesson's Reagent (5.1 g, 0.5 equivalents). The reaction was heated to 85° C. and stirred for 48 hrs. The reaction was quenched with water and extracted and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and the solvent was removed by evaporation. This material was dissolved in ethanol (50 mL) and treated with ethyl bromopyruvate (3 mL, about 1 equivalent) and powdered 3 A molecular sieves (10 g). The reaction was refluxed for 16 hrs. The reaction was then filtered and the solvent was removed by evaporation. The material was dissolved in ethyl acetate, washed with a saturated solution of sodium bicarbonate, washed with brine, and dried over magnesium sulfate. The reaction was filtered and the solvents were removed by evaporation. This material was purified using dichloromethane:ethyl acetate (3:1) to give 1.98 g of the title compound (33%).

reactant | 2-Picolinamide | 25.4 mmol, 3.1 g | N1=C(C=CC=C1)C(=O)N | C6H6N2O
reactant | Lawesson's Reagent | 5.1 g, 0.5 equivalents | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | ethyl bromopyruvate | 3 mL, about 1 equivalent | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(2-pyridinyl)-1,3-thiazole-4-carboxylate | 1.98 g, 33% | N1=C(C=CC=C1)C=1SC=C(N1)C(=O)OCC | C11H10N2O2S
